US06136810
Diisopropylamine (23 ml, 175 mmol) was added to a tetrahydrofuran (500 ml) solution of 1.6 M hexane solution (100 ml, 160 mmol) of n-butyl lithium at -65° C. or lower, and the mixture was warmed up to -40° C. The reaction solution was mixed with 2-chloropyridine (17 g, 150 mmol) at -70° C. or lower and stirred for 1.5 hours at -70° C. or lower. the reaction solution was mixed with cyclohexanecarbaldehyde (17 g, 151 mmol) at -70° C. or lower and stirred for 2 hours at -70° C. or lower. The reaction solution was mixed with water, warmed to room temperature and then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated under a reduced pressure. Thereafter, the resulting residue was purified by silica gel column chromatography (chloroform) to give 2-chloro-α-cyclohexyl-3-pyridinemethanol-(17 g, 50%).

reactant | Diisopropylamine | 175 mmol, 23 ml | C(C)(C)NC(C)C | C6H15N
reactant | hexane | 160 mmol, 1.6 M, 100 ml | CCCCCC | C6H14
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2-chloropyridine | 150 mmol, 17 g | ClC1=NC=CC=C1 | C5H4ClN
reactant | cyclohexanecarbaldehyde | 151 mmol, 17 g | C1(CCCCC1)C=O | C7H12O
solvent | water | O | H2O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 2-chloro-α-cyclohexyl-3-pyridinemethanol- | 17 g, 50% | ClC1=NC=CC=C1C(O)C1CCCCC1 | C12H16ClNO
